* Z:\mnt\spice-netlists\LTM4612_DC1297B.asc
C1 OUT 0 10µ
R1 IN N001 10K
R2 N001 N002 51K
C2 N008 0 10µ
V1 IN 0 24
XU1 IN 0 OUT N008 N005 N005 NC_01 0 N007 N009 NC_02 N004 0 0 0 N006 N002 N003 LTM4612
C3 N007 0 .0022µ
R3 N009 0 392K
R4 N004 0 5.23K
C4 OUT N004 47p
C5 IN 0 100µ
C6 IN 0 10µ x2
D1 0 N001 1N750
C7 OUT 0 47µ
R5 N001 N003 51K
Rload OUT 0 4
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 1.2m startup
* LTM4612 - EN55022B Compliant 36Vin, 15Vout, 5A, DC/DC µModule Regulator\nHigh Density 3A High Voltage Low Noise Step-Down Regulator\nInput: 5V to 36V     Output: 12V @ 3A
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2008 Linear Technology Inc. All rights reserved.
.lib LTM4612.sub
.backanno
.end
