* Z:\mnt\spice-netlists\LTM4601_F18.asc
XU1 IN 0 OUT 0 N006 N006 OUT 0 N002 N004 N007 N012 N010 N009 N008 N005 N003 N011 N001 N007 LTM4601
C1 OUT N004 100p
R1 N004 0 121K
R2 N008 0 392K
C2 OUT 0 100µ
R3 IN N003 100K
C3 N011 0 .001µ
V1 IN 0 12
C4 IN 0 10µ x3
C5 OUT 0 470µ
Rload OUT 0 .075
.tran 700u startup
* LTM4601 - 12A DC/DC µModules with PLL, Output Tracking and Margining\nInput: 4.5V to 20V     Output: .9V @ 12A, Fswitch = 850KHz
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2011 Linear Technology Inc. All rights reserved.
.lib LTM4601.sub
.backanno
.end
