* Z:\mnt\spice-netlists\LTM4612_F18.asc
C1 OUT 0 22µ
C2 N011 0 10µ
V1 IN 0 24
XU1 IN 0 OUT N011 N005 N005 NC_01 0 N009 N012 N007 N004 N008 N010 0 N006 N002 N003 LTM4612
C3 N009 0 .0022µ
R3 N012 0 392K
R4 N004 0 5.23K
C4 OUT N004 22p
C6 IN 0 10µ
C7 OUT 0 220µ
Rload OUT 0 2.4
R1 IN N007 2Meg
R2 IN N001 10K
R5 N001 N002 51K
D1 0 N001 1N750
R6 N001 N003 51K
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 1.2m startup
* LTM4612 - EN55022B Compliant 36Vin, 15Vout, 5A, DC/DC µModule Regulator\nHigh Density 5A High Voltage Low Noise Step-Down Regulator\nInput: 22V to 36V     Output: 12V @ 5A
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2012 Linear Technology Inc. All rights reserved.
.lib LTM4612.sub
.backanno
.end
