* Z:\mnt\spice-netlists\LTM4630_F25_DC1892A.asc
V1 IN 0 12
C1 OUT2 0 100µ
R1 N006 0 40.2K
C2 N008 0 .001µ
C3 IN 0 22µ
C4 N009 0 .001µ
C5 OUT1 0 100µ
C6 OUT1 0 470µ
R2 N007 0 90.9K
R3 N002 0 121K
C7 OUT2 0 470µ
R4 N001 N003 10K
R5 N001 N004 10K
XU2 N008 NC_01 N006 0 N007 NC_02 N009 OUT2 OUT1 OUT2 0 N005 NC_03 OUT1 N005 N003 N004 0 NC_04 MP_05 MP_06 MP_07 MP_08 NC_09 N001 IN MP_10 MP_11 MP_12 MP_13 NC_14 NC_15 NC_16 0 N002 MP_17 MP_18 NC_19 LTM4630
I1 OUT2 0 PWL(600u 0 601u 9 680u 9 681u 0)
I2 OUT1 0 PWL(600u 0 601u 9 680u 9 681u 0)
C8 OUT1 0 470µ
C9 OUT2 0 470µ
.tran 750u startup
* Note:\n  Smaller values are used for TK/SS capacitors to reduce simulation time. See datasheet for typical values.\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2013 Linear Technology Inc. All rights reserved.
* LTM4630 - Dual 18A or Single 36A DC/DC µModule Regulator\nHigh Efficiency Dual 18A Step-Down Regulator with Output Tracking\nInput : 4.5V to 15V     Outputs: 1.5 V @ 18A & 1.0V @ 18A
.lib LTM4630.sub
.backanno
.end
